US05420298
Using an analogous procedure to that described in Example 3 except that diisopropylethylamine was used in place of potassium carbonate, 3-[3-(4-acetylphenylthio)phenyl]-3-methoxypyrrolidine was reacted with 2-propynyl bromide to give 3-[3-(4-acetylphenylthio)phenyl]-3-methoxy-1-(prop-2-ynyl)pyrrolidine as a gum in 14% yield.

reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-[3-(4-acetylphenylthio)phenyl]-3-methoxypyrrolidine | C(C)(=O)C1=CC=C(C=C1)SC=1C=C(C=CC1)C1(CNCC1)OC | C19H21NO2S
reactant | 2-propynyl bromide | C(C#C)Br | C3H3Br
product | 3-[3-(4-acetylphenylthio)phenyl]-3-methoxy-1-(prop-2-ynyl)pyrrolidine | 14% yield | C(C)(=O)C1=CC=C(C=C1)SC=1C=C(C=CC1)C1(CN(CC1)CC#C)OC | C22H23NO2S
